US05998463
Preparation 17 1-(2,2,2-Trifluoro-ethyl)-1,3-dihydro-indol-2-one.
A mixture of 1-(2,2,2-trifluoro-ethyl)-1H-indole-2,3-dione (9.2 g, 40 mmol) and 10% palladium on carbon (2.4 g) in acetic acid (100 mL) and 70% perchloric acid (6.4 mL, 80 mmol) was hydrogenated in a Parr apparatus for 22 hours. The mixture was filtered through diatomaceous earth, diluted with water (1.5 L) and the precipitate was collected and dried. mp 155-162° C. Yield 7.5 g (87%).

reactant | 1-(2,2,2-trifluoro-ethyl)-1H-indole-2,3-dione | 40 mmol, 9.2 g | FC(CN1C(C(C2=CC=CC=C12)=O)=O)(F)F | C10H6F3NO2
reactant | perchloric acid | 80 mmol, 6.4 mL | Cl(=O)(=O)(=O)O | ClHO4
catalyst | palladium on carbon | 2.4 g | [Pd] | Pd
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | 1-(2,2,2-Trifluoro-ethyl)-1,3-dihydro-indol-2-one | FC(CN1C(CC2=CC=CC=C12)=O)(F)F | C10H8F3NO
